US07960377B2
A 100 mL round-bottomed flask was charged with methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (4 g, 20.60 mmol) and CHCl3 (200 mL) was added to form a clear solution which was stirred and cooled to −78° C. To the resulting white suspension was added TEA (8.61 mL, 61.8 mmol). A solution of sulfuryl chloride (3.35 mL, 41.2 mmol) in CHCl3 (10 mL) was added dropwise and the reaction mixture was maintained at −78° C. for 1 h. The solution was warmed to 0° C. at which time the mixture turned clear yellow. The reaction was stirred at 0° C. for 2 h. The reaction was quenched with H2O (200 mL) and extracted with DCM (2×200 mL). The combined organics were washed with 1 N HCl (200 mL) then dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting solid was purified by flash column chromatography using a gradient elution with 0-25% acetonitrile in DCM to provide methyl 1-(chlorosulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (5.34 g, 18.24 mmol, 89% yield) as a white solid. 1H-NMR (CDCl3) δ 8.82. (br s, 1H), 8.63 (d, 1H), 4.72 (dd, 2H), 4.10 (dd, 2H), 3.92 (s, 3H).

reactant | methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 20.60 mmol, 4 g | N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C9H10N2O3
reactant | sulfuryl chloride | 41.2 mmol, 3.35 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 1-(chlorosulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 18.24 mmol, 5.34 g, 89% yield | ClS(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C9H9ClN2O5S
